US08466186B2
(i) N-{2,4-Dichloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide
N-(2,4-Dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide (120 mg, 0.4 mmol) was added to (4-chloro-2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)aniline (110 mg, 0.4 mmol) in DMF (2 mL). After 3 h at rt DIC (74 μL, 0.5 mmol) was added to the reaction mixture and it was stirred at 80° C. for 5.5 h. Additional DIC (40 μL, 0.3 mmol) was added and stirring was continued at 100° C. overnight. The reaction mixture was concentrated and the crude was purified by chromatography to give the title compound.

reactant | N-(2,4-Dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | 0.4 mmol, 120 mg | ClC1=C(CNC(C(C)(C)C)=O)C=CC(=C1N=C=S)Cl | C13H14Cl2N2OS
reactant | 4-chloro-2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.4 mmol, 110 mg | ClC1=CC(=C(N)C=C1N1CCC(CC1)C(F)(F)F)NC | C13H17ClF3N3
reactant | DIC | 0.5 mmol, 74 μL | CC(N=C=NC(C)C)C | C7H14N2
reactant | DIC | 0.3 mmol, 40 μL | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-{2,4-Dichloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide | ClC1=C(CNC(C(C)(C)C)=O)C=CC(=C1NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)Cl | C26H29Cl3F3N5O
